US07807691B2
4-[2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidin-1-yl]-2-chlorobenzonitrile
Combine 2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidine (338 mg, 1.54 mmol) with 2-chloro-4-fluorobenzonitrile (216 mg, 1.39 mmol) and N-methylmorpholine (0.169 mL, 1.54 mmol) and then heat to 100° C. in a microwave for 1 h. Purify by flash chromatography (12 g RediSep silica gel columns, 0:100 to 90:10 gradient of [cyclohexane: ethylacetate] then repeat using (12 g RediSep silica gel columns, 0:100 to 97:3 gradient of [cyclohexane: ethylacetate] to provide 179 mg (36%) of the title compound. MS: 355 [M Cl35+H]+ and 377 [M Cl35+Na]+; 1H NMR (300 MHz, CDCl3): δ 7.28-7.30 (m, 1H), 6.72-6.76 (m, 1H), 6.61-6.67 (m, 1H), 6.58 (s, 1H), 6.51 (s, 1H), 6.28-6.31 (m, 1H), 5.92-5.95 (m, 2H), 4.68-4.72 (m, 1H), 3.48-3.50 (m, 1H), 3.30-3.35 (m, 1H), 2.20-2.30 (1H, m), 1.75-1.81 (1H, m), 1.18 (s, 3H) and 1.09 (s, 3H).

reactant | 2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidine | 1.54 mmol, 338 mg | O1COC2=C1C=CC(=C2)C2NCC(C2)(C)C | C13H17NO2
reactant | 2-chloro-4-fluorobenzonitrile | 1.39 mmol, 216 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | N-methylmorpholine | 1.54 mmol, 0.169 mL | CN1CCOCC1 | C5H11NO
product | 4-[2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidin-1-yl]-2-chlorobenzonitrile | 179 mg, 36% | O1COC2=C1C=CC(=C2)C2N(CC(C2)(C)C)C2=CC(=C(C#N)C=C2)Cl | C20H19ClN2O2
